US06515027B1
a) N,N-diisopropyl-3-(2-methoxy-5-nitrophenyl)propionamide
A solution of 3-(2-methoxy-5-nitrophenyl)propionyl chloride(0.46 g, 1.9 mmol), prepared from 3-(2-methoxy-5-nitrophenyl)propionic acid (Asano et al., J. Pharm. Soc. Japan, 1950, 70, 480) and thionyl chloride, in dichloromethane (5 mL) was added in one portion to a solution of diisopropylamine (0.67 g, 6.6 mmol) in dichloromethane (20 mL), stirred for 16 h, washed with water (2×20 mL), dried (Na2SO4), and concentrated in vacuo to give the title compound: MS(ES) m/3 309.1 [M+H]+.

reactant | 3-(2-methoxy-5-nitrophenyl)propionyl chloride | 1.9 mmol, 0.46 g | COC1=C(C=C(C=C1)[N+](=O)[O-])CCC(=O)Cl | C10H10ClNO4
reactant | 3-(2-methoxy-5-nitrophenyl)propionic acid | COC1=C(C=C(C=C1)[N+](=O)[O-])CCC(=O)O | C10H11NO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylamine | 6.6 mmol, 0.67 g | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N,N-diisopropyl-3-(2-methoxy-5-nitrophenyl)propionamide | C(C)(C)N(C(CCC1=C(C=CC(=C1)[N+](=O)[O-])OC)=O)C(C)C | C16H24N2O4
